US07745477B2
c) Preparation of (4-tert-butyl-benzyl)-[2-(3-ethynyl-phenyl)-ethyl]-carbamic acid tert-butyl ester
To a solution of (4-tert-butyl-benzyl)-[2-(3-trimethylsilanylethynyl-phenyl)-ethyl]-carbamic acid tert-butyl ester (440 mg, 0.949 mmol) in THF (7.6 ml) was added a 1 molar solution of TBAF in THF (949 μl, 0.949 mmol) at −78° C. After 15 min at −78° C. the solution was allowed to warm to 0° C. for 30 min. Then brine was added and the mixture was extracted with ether. The combined ether layers were dried (Na2SO4) and evaporated and the remaining residue was purified by chromatography (pentane/ether 100:0 to 90:10) to obtain the title compound as a colorless oil (314 mg, 84%). MS (ISP) 392.3 (M+H)+.

reactant | (4-tert-butyl-benzyl)-[2-(3-trimethylsilanylethynyl-phenyl)-ethyl]-carbamic acid tert-butyl ester | 0.949 mmol, 440 mg | C(C)(C)(C)OC(N(CCC1=CC(=CC=C1)C#C[Si](C)(C)C)CC1=CC=C(C=C1)C(C)(C)C)=O | C29H41NO2Si
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 7.6 ml | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
solvent | THF | 0.949 mmol, 949 μl | C1CCOC1 | C4H8O
product | (4-tert-butyl-benzyl)-[2-(3-ethynyl-phenyl)-ethyl]-carbamic acid tert-butyl ester | 314 mg, 84% | C(C)(C)(C)OC(N(CCC1=CC(=CC=C1)C#C)CC1=CC=C(C=C1)C(C)(C)C)=O | C26H33NO2
